US08071588B2
A mixture of 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride (400 mg, 1.18 mmol), dimethylpropanedioic acid (156 mg, 1.18 mmol), HBTU (535 mg, 1.41 mmol) and Et3N (0.82 mL, 5.89 mmol) in DCM (8 mL) was stirred at room temperature overnight. It was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were washed with water followed by a brine wash. The organic layers were dried over sodium sulfate, filtered, concentrated and purified with CombiFlash eluting with 10% methanol in DCM. The product fractions were combined and concentrated to give 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-2,2-dimethyl-3-oxopropanoic acid as a solid (165 mg, 34%). LC-MS m/z 418 (M+H)+.

reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride | 1.18 mmol, 400 mg | Cl.NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2
reactant | dimethylpropanedioic acid | 1.18 mmol, 156 mg | CC(C(=O)O)(C(=O)O)C | C5H8O4
reactant | HBTU | 1.41 mmol, 535 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 5.89 mmol, 0.82 mL | CCN(CC)CC | C6H15N
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-2,2-dimethyl-3-oxopropanoic acid | 165 mg, 34% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(C(C(=O)O)(C)C)=O)CC | C21H31N5O4
